US07417064B2
a) 5-Fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one
Add trimethylsilyl trifluoromethanesulfonate (18.5 mL, 102 mmol, 1.3 equiv.) over 5 minutes to a cold (0° C.) stirred solution of solution 6,7-dihydro-1-benothiophen-4(5H)-one (12.04 g, 79.1 mmol, 1 equiv.) and triethylamine (33 mL, 237 mmol, 3 equiv.) in dry dichloromethane (200 mL). Stir the reaction mixture at 0° C. for 5 minutes and then warm to room temperature for 1 h10 min before adding water. Separate the layers, extract the aqueous layer twice with dichloromethane, dry the combined organic extracts over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Dissolve the resulting crude silylenol ether in anhydrous dimethylformamide (200 mL), place the reaction mixture in a room temperature water bath, and add 1-(chloromethyl)-4fluoro-1,4-diazoniabicyclo[2.2.2]octanebis(tetrafluoroborate) (Selectfluor™) (31.06 g, 87.7 mmol, 1.1 equiv.) in one portion. Stir the reaction mixture at room temperature for 15 minutes then add tetrabutylammonium fluoride (1M in THF, 87 mL, 87 mmol, 1.1 equiv.) and stir at room temperature for 1 hr before adding water and ethyl acetate. Separate the layers, extract the aqueous layer three times with ethyl acetate, wash the combined organic extracts successively with water (2 times) then 0.1N HCl (2 times), dry the combined organic extracts over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the resultant crude material by medium pressure liquid chromatography eluting with 0 to 20% ethyl acetate in hexanes to afford the title compound as an orange solid (9.725 g, 72%). δH (400 MHz, CDCl3) 2.41-2.54 (m, 1H), 2.56-2.67 (m, 1H), 3.10-3.20 (m, 1H), 3.23-3.33 (m, 1H), 5.12 (ddd, 1H, J=47, 11, 4 Hz), 7.15 (d, 1H, J=6 Hz), 7.41 (d, 1H, J=6 Hz).

reactant | trimethylsilyl trifluoromethanesulfonate | 102 mmol, 18.5 mL, 1.3 equiv. | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | triethylamine | 237 mmol, 33 mL, 3 equiv. | C(C)N(CC)CC | C6H15N
reactant | 1-(chloromethyl)-4fluoro-1,4-diazoniabicyclo[2.2.2]octanebis(tetrafluoroborate) | 87.7 mmol, 31.06 g, 1.1 equiv. | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | tetrabutylammonium fluoride | 87 mmol, 1M, 87 mL, 1.1 equiv. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one | 9.725 g, 72% | FC1C(C2=C(SC=C2)CC1)=O | C8H7FOS
